US07547710B2
A mixture of 5-{[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]oxy}pentanoic acid (0.8 g, 1.5 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.38 g, 2.0 mmol), 1-hydroxy-1H-benzotriazole ammonium salt (0.24 g, 1.6 mmol) and N,N-dimethylformamide (10 ml) was stirred at room temperature for 15 hrs. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The extract was washed successively with saturated aqueous sodium hydrogen carbonate, 1N hydrochloric acid and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was crystallized from isopropyl ether to give tert-butyl {{6-[(5-amino-5-oxopentyl)oxy]-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl}methyl}carbamate (0.6 g, yield 77%) as crystals.

reactant | 5-{[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]oxy}pentanoic acid | 1.5 mmol, 0.8 g | C(C)(C)(C)OC(=O)NCC=1C(=NC2=CC=C(C=C2C1C1=CC=C(C=C1)C)OCCCCC(=O)O)CC(C)C | C31H40N2O5
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 2.0 mmol, 0.38 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxy-1H-benzotriazole ammonium salt | 1.6 mmol, 0.24 g | [NH4+].ON1N=NC2=C1C=CC=C2
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | tert-butyl {{6-[(5-amino-5-oxopentyl)oxy]-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl}methyl}carbamate | 0.6 g, yield 77% | NC(CCCCOC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CNC(OC(C)(C)C)=O)C1=CC=C(C=C1)C)=O | C31H41N3O4
